US03994939
To a stirred solution of 1.69 g. (3 mmole) of 6-(triphenylmethylamino)-2,2-dimethyl-3-(N-[4-hydroxybenzyl]carbamoyl)penam in 9 ml. of chloroform is added 1 ml. (12 mmole) of pyridine. The solution is cooled to ca. 4° C. in an ice-bath and 235 mg. of acetyl chloride is added slowly. The solution is stirred for 2 hours at ambient temperature, and then it is again cooled to ca. 4° C. Phosgene (1.5 ml. of a 4.3 M solution in chloroform [6.45 mmole]) is added and the cooling bath is removed. Stirring is continued for a further 1.5 hours, and then all the volatile components are removed by evaporation in vacuo. The residue is redissolved in 6 ml. of chloroform and the solution is cooled to ca. 4° C. in an ice-bath. To the stirred solution is added 0.95 g. (6 mmole) of tetramethylguanidinium azide, and then stirring is continued for a further 1 hour at ambient temperature. At this point, 25 ml. of water is added, followed by sufficient 1N sodium hydroxide to bring the pH of the aqueous phase to 10. The chloroform layer is separated off, washed with water, dried using sodium sulfate, and evaporated to dryness in vacuo. This affords crude 6-(triphenylmethylamino)-2,2-dimethyl-3-(1-[4-acetoxybenzyl]tetrazol-5-yl)penam, which is purified further by chromatography.

reactant | 6-(triphenylmethylamino)-2,2-dimethyl-3-(N-[4-hydroxybenzyl]carbamoyl)penam | 3 mmole | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C(NCC2=CC=C(C=C2)O)=O)C1=O | C34H33N3O3S
reactant | pyridine | 12 mmole | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | tetramethylguanidinium azide | 6 mmole | [N-]=[N+]=[N-].CN(C(N(C)C)=[NH2+])C
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 6.45 mmole | C(Cl)(Cl)Cl | CHCl3
product | 6-(triphenylmethylamino)-2,2-dimethyl-3-(1-[4-acetoxybenzyl]tetrazol-5-yl)penam | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2CC2=CC=C(C=C2)OC(C)=O)C1=O | C36H34N6O3S
